US05604229
(5) 13-Phenyltridecanol
melting point=34°-36° C. Rf value: 0.24 (ethyl acetate:hexane=1:5); 1H-NMR (CDCl3 /TMS) δ: 1.28 & 1.57 (23H, 2br.s), 2.62 (2H, t, J=7.5 Hz), 3.65 (2H, t, J=6 Hz), 7.23 (5H, m); IR(KBr): 3344, 3259, 2918, 2848, 1468 cm-1 ; MS(EI): 276 (M+).

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
product | 13-Phenyltridecanol | C1(=CC=CC=C1)CCCCCCCCCCCCCO | C19H32O
